US07700589B2
54b) (R)-2-{[4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid
A mixture of 15 mL THF and 1.65 g (3.0 mmol) ethyl (R)-2-{[4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate was combined with a solution of 0.40 g (6.3 mmol) lithium hydroxide hydrate in 5 mL water and stirred overnight. The reaction mixture was evaporated down under reduced pressure, the residue was taken up in water and acidified by the addition of 1 M HCl. The precipitate was suction filtered and dried.

reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | ethyl (R)-2-{[4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | 3.0 mmol, 1.65 g | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1 | C31H35N5O4
reactant | lithium hydroxide hydrate | 6.3 mmol, 0.40 g | O.[OH-].[Li+]
solvent | water | 5 mL | O | H2O
product | (R)-2-{[4-(2-oxo-1,2-dihydro-imidazo[4,5-c]quinolin-3-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionic acid | O=C1NC2=C(C=NC=3C=CC=CC23)N1C1CCN(CC1)C(=O)N[C@@H](C(=O)O)CC1=CC=2CCCCC2C=C1 | C29H31N5O4
